US07288537B2
A solution of (S)-3-tert-butoxycarbonylamino-4-iodo-butyric acid benzyl ester (0.2 g, 0.477 mmol) in dry diethylether (3 ml) cooled to 0° C. under argon, is treated with a 2.0 M solution of lithium borohydride in THF (0.95 ml, 1.9 mmol). The reaction mixture is allowed to warm to ambient temperature with stirring for 18 hours. The reaction is quenched by addition of water and partitioned between ethylacetate and 10% citric acid solution. The organic phase is washed with brine, dried over magnesium sulphate and evaporated. The crude product is purified by flash silica chromatography using 1% methanol in DCM as eluent to afford ((R)-3-hydroxy-1-methyl-propyl)-carbamic acid tert-butyl ester.

reactant | (S)-3-tert-butoxycarbonylamino-4-iodo-butyric acid benzyl ester | 0.477 mmol, 0.2 g | C(C1=CC=CC=C1)OC(C[C@@H](CI)NC(=O)OC(C)(C)C)=O | C16H22INO4
reactant | lithium borohydride | [BH4-].[Li+]
reactant | THF | 1.9 mmol, 0.95 ml | C1CCOC1 | C4H8O
solvent | diethylether | 3 ml | C(C)OCC | C4H10O
product | ((R)-3-hydroxy-1-methyl-propyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CCO)C)=O | C9H19NO3
